data/pmechdb/original/mc_train_fold0/raw/train.txt
CCCC[NH2:10].C1=CC=C(C=C1)[CH2:20][Br:21]>>CCCC[NH2+:10][CH2:20]C1=CC=CC=C1.[Br-:21] 10=20;20,21=21
C[Mg:20]I.[P:10](Cl)(Cl)Cl>>C[Mg-:20]([P+:10](Cl)(Cl)Cl)I 10=20,
CCC(C)O[Si:20](C)(C)C.[OH2:10]>>CCC(C)O[Si-:20](C)(C)(C)[OH2+:10] 10=20,
[H:20][O+:21](C(C)(C)C)[K].C1=CC=C(C=C1)C(=[C-:10]Br)C2=CC=CC=C2.CS(=O)C>>[H:20][C:10](=C(C1=CC=CC=C1)C2=CC=CC=C2)Br.CC(C)(C)[O:21][K].CS(=O)C 10=20;20,21=21
[H:20][C:21]1([C:22](=[O:23])OC(=N1)CC)CC2CCCCC2.CCC(=O)O.CCC(=O)[O-].C1=CC=[NH+]C=C1.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCC1=N[C:21](=[C:22](O1)[O-:23])CC2CCCCC2.CCC(=O)O.CCC(=O)[O-].C1=CC=[NH+]C=C1 10=20;20,21=21,22;22,23=23
[H:20][OH2+:21].CCN(CC)C(C)(C#CC)[O-:10]>>[H:20][O:10]C(C)(C#CC)N(CC)CC.[OH2:21] 10=20;20,21=21
[H:20][CH:21](C)[CH+:22]OC.CC(C[O:10]C)Br>>[H:20][O+:10](C)CC(C)Br.C[CH:21]=[CH:22]OC 10=20;20,21=21,22
CC1=N[CH:10]=[C:11](O1)[O-:12].C1=CC=C(C=C1)[CH:20]=[O:21]>>CC1=N[CH:10]([C:11](=[O:12])O1)[CH:20](C2=CC=CC=C2)[O-:21] 10,11=10,20;20,21=21;12=11
[CH:10](=[NH2+:11])N>>[CH+:10](N)[NH2:11] 10,11=11
CN1[CH+:20]C2(CCNC2C[C:11]3=[CH:10]C=C(C(=C3)O)O)C4=CC=CC=C41.[Cl-]>>CN1[CH:20]2[CH:10]3C=C(C(=C[C+:11]3CC4C2(CCN4)C5=CC=CC=C51)O)O.[Cl-] 10,11=10,20
[H:20][OH2+:21].CC(CC(=O)C1=C(C=CC=C1)F)(C2=C(C=CC=C2)F)[O-:10]>>[H:20][O:10]C(C)(CC(=O)C1=C(C=CC=C1)F)C2=C(C=CC=C2)F.[OH2:21] 10=20;20,21=21
CC[O-:10].CC(=O)O[C:20](=[O:21])C>>CC[O:10][C:20](C)([O-:21])OC(=O)C 10=20;20,21=21
CC[N+]1(CC(=O)O[Mg:20]1)CC(=O)[O-:10].O>>CC[N+]12CC(=O)O[Mg-:20]1[O:10]C(=O)C2.O 10=20,
[H:20][O+:21](CC)C(C)(NCC)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNC(C)(O)[O:21]CC 10=20;20,21=21
CC1[CH:11]=[CH:10]CC1C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CC1[CH+:11][CH:10]2[CH2:20]CC1C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C[P:10](C)C.[OH:21][Cl:20]>>C[P+:10](C)(C)[Cl:20].[OH-:21] 10=20;20,21=21
CN(C)[Si:20](C)(C)C.C[O:10]C>>CN(C)[Si-:20](C)(C)(C)[O+:10](C)C 10=20,
[H:20][O:21]P(=O)(O)[O-].CN(C)C(C#CCCCOCC1=CC=C(C=C1)OC)[O-:10].[Li+].CCCC.CN(C)P(=O)(N(C)C)N(C)C>>OP(=O)([O-:21])[O-].[H:20][O:10]C(C#CCCCOCC1=CC=C(C=C1)OC)N(C)C.[Li+].CCCC.CN(C)P(=O)(N(C)C)N(C)C 10=20;20,21=21
CC1C([C:20](=[O:21])CC2C1CCC3C2(CCC(C3(C)C)O[Si](C)(C)C(C)(C)C)C)C.CC1=CC=C(C=C1)S(=O)(=O)N[NH2:10].C1=CC=[NH+]C=C1>>CC1C([C:20](CC2C1CCC3C2(CCC(C3(C)C)O[Si](C)(C)C(C)(C)C)C)([NH2+:10]NS(=O)(=O)C4=CC=C(C=C4)C)[O-:21])C.C1=CC=[NH+]C=C1 10=20;20,21=21
C[C:10]#[C:11]CC(C1=CC=CC=C1)[O+:21]=[CH:20]C2=CC=C(C=C2)[N+](=O)[O-].O=S([O-])(C(F)(F)F)=O>>O=S([O-])(C(F)(F)F)=O.C[C:10]1=[C+:11]CC(C2=CC=CC=C2)[O:21][CH:20]1C3=CC=C(C=C3)[N+](=O)[O-] 10,11=10,20;20,21=21
[B-]([O:10]CC[N+:21](=[CH:20]C)C)(F)(F)F>>[B-]([O+:10]1CC[N:21]([CH:20]1C)C)(F)(F)F 10=20;20,21=21
[H:10][BH2-:11]C#N.CCCC[C:20](=[N+:21](CC)C(CC)C1CCCCC1)C(C)CCC2CCCC2.CCC(C1CCCCC1)NCC.O.[Na+]>>[H:10][C:20](CCCC)(C(C)CCC1CCCC1)[N:21](CC)C(CC)C2CCCCC2.[BH2:11]C#N.CCC(C1CCCCC1)NCC.O.[Na+] 10,11=10,20;20,21=21
[Li][O:10]N=CC.[AlH3:20].[HH]>>[Li][O+:10](N=CC)[AlH3-:20].[HH] 10=20,
C[P+](C)(C)[CH:21]=[CH2:20].[OH:10][K]>>C[P+](C)(C)[CH-:21][CH2:20][OH+:10][K] 10=20;20,21=21
CCC(CC)(C(C)C)[N:10](C)C.[CH3:20][I:21]>>CCC(CC)(C(C)C)[N+:10](C)(C)[CH3:20].[I-:21] 10=20;20,21=21
C1CC([O:10][CH:20](C1)[OH2+:21])CO.[Cl-]>>C1C[CH:20]=[O+:10]C(C1)CO.[OH2:21].[Cl-] 10=20;20,21=21
CC(C)(C)C1CC2C34C15CC(OC5OC3(C[CH:20]6C4[Br+:21]6)C(=O)O2)[O:10]C.CC(=O)O.[Br-]>>CC(C)(C)C1CC2C34C15CC6OC5OC3(C[CH:20](C4[Br:21])[O+:10]6C)C(=O)O2.CC(=O)O.[Br-] 10=20;20,21=21
CC(=O)[O:21][C:20](C=C)(C#N)[O-:10]>>CC(=O)[O-:21].C=C[C:20](=[O:10])C#N 10=20;20,21=21
COC1C(C(C2C(O1)COC(O2)C3=CC=CC=C3)I)[OH:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)I.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CN=CN1.[I-]>>COC1C(C(C2C(O1)COC(O2)C3=CC=CC=C3)I)[OH+:10][P:20](C4=CC=CC=C4)(C5=CC=CC=C5)(C6=CC=CC=C6)I.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CN=CN1.[I-] 10=20,
[H:10][BH3-:11].CCC[C:20](=[O+:21][Na])CCC>>[H:10][C:20](CCC)(CCC)[O:21][Na].[BH3:11] 10,11=10,20;20,21=21
[H:10][AlH3-:11].C[C:20](=[O:21])C>>[H:10][C:20](C)(C)[O-:21].[AlH3:11] 10,11=10,20;20,21=21
[H:20][NH+:21]1CCOCC1.C1CCC(C1)(N2CCOCC2)[O-:10].C1=CC=CC=C1>>[H:20][O:10]C1(CCCC1)N2CCOCC2.C1COCC[NH:21]1.C1=CC=CC=C1 10=20;20,21=21
[H:20][Cl:21].CC1CCC([C:11](=[CH:10]1)C2=CC=CC=C2)C>>[H:20][CH:10]1C(CCC([C+:11]1C2=CC=CC=C2)C)C.[Cl-:21] 10,11=10,20;20,21=21
[H:20][O:21]C.[H:10][Na:11].CCOC(=O)C(=C(C1=CC=CC=C1)C2=CC=CC=C2)CC(=O)OC.CC(=O)C=C.COC(=O)C1=CCCCCC1=O.C1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)C=O>>C[O-:21].[H:10][H:20].[Na+:11].CCOC(=O)C(=C(C1=CC=CC=C1)C2=CC=CC=C2)CC(=O)OC.CC(=O)C=C.COC(=O)C1=CCCCCC1=O.C1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)C=O 10,11=10,20;20,21=21
CC[S:10]C1CCC(=O)[CH:20]1[Br:21].[OH-]>>CC[S+:10]1C2[CH:20]1C(=O)CC2.[Br-:21].[OH-] 10=20;20,21=21
C[C+:20]=O.[CH:10]1=[CH:11]OC(=C1)C#N>>C[C:20](=O)[CH:10]1C=C(O[CH+:11]1)C#N 10,11=10,20
CN(C)C1=CC=[N:10]C=C1.C1=CC=C(C=C1)C(=O)[CH2:20][Br:21]>>CN(C)C1=CC=[N+:10](C=C1)[CH2:20]C(=O)C2=CC=CC=C2.[Br-:21] 10=20;20,21=21
